US05179093
3-(Dimethylaminomethylene)-dihydrobenzo[b]pyran-2,4-dione
This compound was prepared by the method of example 2, by stirring 4-hydroxycoumarin (5.0 g) and DMF-dimethylsulfate (10.0 g) with ethyldiisopropylamine (10 mL) in CH2Cl2 (100 mL) for 0.5 hour. Product was crystallized from ether-CH2Cl2 to obtain 3.01 g of tan crystals, mp 135°-140° with decomposition.

reactant | 4-hydroxycoumarin | 5.0 g | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
reactant | DMF dimethylsulfate | 10.0 g | CN(C)C=O.COS(=O)(=O)OC
reactant | ethyldiisopropylamine | 10 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-(Dimethylaminomethylene)-dihydrobenzo[b]pyran-2,4-dione | 3.01 g | CN(C)C=C1C(C2C(OC1=O)=CC=CC2)=O | C12H13NO3
